US07601714B2
To a solution of 4-chloro-nicotinic acid (2.5 g, 15.9 mmol) in DMF (26 mL)), were added Dicyclo-hexylcarbodiimide (DCC) (7.75 g, 37.5 mmol), 4-dimethylaminopyridine (DMAP) (0.286 g, 2.1 mmol) and EtOH (2.6 mL, 46.8 mmol). The reaction mixture was stirred at room temperature for 4 h. The mixture was then distilled (0.1 mmHg) to afford 1.5 g (51%) of 4-chloro-nicotinic acid ethyl ester as a colorless oil.

reactant | 4-chloro-nicotinic acid | 15.9 mmol, 2.5 g | ClC1=CC=NC=C1C(=O)O | C6H4ClNO2
reactant | Dicyclo-hexylcarbodiimide | 37.5 mmol, 7.75 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | EtOH | 46.8 mmol, 2.6 mL | CCO | C2H6O
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
catalyst | 4-dimethylaminopyridine | 2.1 mmol, 0.286 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-chloro-nicotinic acid ethyl ester | 1.5 g, 51% | C(C)OC(C1=CN=CC=C1Cl)=O | C8H8ClNO2
